US09062044B2
Intermediate 2. 3,6-Diaza-bicyclo[3.2.0]heptane-6-carboxylic acid tert-butyl ester
Allyl-(2,2-dimethoxy-ethyl)-carbamic acid benzyl ester. To a 500 mL round-bottomed flask equipped with thermocouple probe, nitrogen inlet, reflux condenser, heating mantle, and mechanical stirring was added (2,2-dimethoxy-ethyl)-carbamic acid benzyl ester (50 g, 209 mmol) in toluene (180 mL). To the resulting solution was added powdered KOH (51.6 g, 920 mmol) and triethylbenzylammonium chloride (0.810 g, 3.55 mmol). A solution of allyl bromide (33.0 g, 275 mmol) in toluene (50 mL) was added dropwise over 10 minutes. The mixture was heated to 50° C. and stirred for 2 days. To the reaction mixture was added water (230 mL) over ten minutes. The layers were separated and the aqueous was extracted with toluene (2×200 mL). The combined organics were washed with brine (1×200 mL), dried with magnesium sulfate, filtered, and concentrated to afford the title compound (57.8 g, 98%). 1H-NMR (CDCl3, 500 MHz): 7.31 (m, 5H), 5.76 (m, 1H), 5.15 (m, 4H), 4.51 (m, 1H), 3.98 (d, J=9.48, 2H), 3.36 (m, 8H).

reactant | Allyl-(2,2-dimethoxy-ethyl)-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(N(CC(OC)OC)CC=C)=O | C15H21NO4
reactant | (2,2-dimethoxy-ethyl)-carbamic acid benzyl ester | 209 mmol, 50 g | C(C1=CC=CC=C1)OC(NCC(OC)OC)=O | C12H17NO4
reactant | KOH | 920 mmol, 51.6 g | [OH-].[K+]
reactant | allyl bromide | 275 mmol, 33.0 g | C(C=C)Br | C3H5Br
reactant | toluene | 180 mL | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
catalyst | triethylbenzylammonium chloride | 3.55 mmol, 0.810 g | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
solvent | water | 230 mL | O | H2O
product | 3,6-Diaza-bicyclo[3.2.0]heptane-6-carboxylic acid tert-butyl ester | 57.8 g, 98% | C(C)(C)(C)OC(=O)N1C2CNCC2C1 | C10H18N2O2
